US06359138B1
(S)-1-(5-Hydroxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-chloro-benzyl)-piperidin-4-ol hydroehloride
The title compound, MS: m/e=374.2 (M+H+) [α]=+32.4° (c=1.0, DMF), >99% e.e. by chiral phase HPLC, was prepared from (S)-1-(5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-chloro-benzyl)-piperidin-4-ol.

reactant | (S)-1-(5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-chloro-benzyl)-piperidin-4-ol | COC=1C=CC2=C(C[C@H](O2)CN2CCC(CC2)(O)CC2=CC=C(C=C2)Cl)C1 | C22H26ClNO3
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-1-(5-Hydroxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-chloro-benzyl)-piperidin-4-ol | OC=1C=CC2=C(C[C@H](O2)CN2CCC(CC2)(O)CC2=CC=C(C=C2)Cl)C1 | C21H24ClNO3
